US04314844
Preparation of 2,5-bistrifluoromethyl-4-bromoimidazole
2,5-bistrifluoromethylimidazole is dissolved in an aqueous solution of potassium carbonate. Bromine 1.1 equivalents is added and heated until color dissipates. Solution is acidified with dilute hydrochloric acid and extracted with ether. The ether layer is washed once with brine solution, dried over sodium sulfate and stripped to give product in 64% yield.

reactant | 2,5-bistrifluoromethylimidazole | FC(C=1NC(=CN1)C(F)(F)F)(F)F | C5H2F6N2
reactant | Bromine | 1.1 equivalents | BrBr | Br2
reactant | hydrochloric acid | Cl | ClH
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2,5-bistrifluoromethyl-4-bromoimidazole | 64% yield | FC(C=1NC(=C(N1)Br)C(F)(F)F)(F)F | C5HBrF6N2
